US06936602B1
In toluene (20 ml), ethanol (2 ml) and water (2 ml) were suspended 7-bromo-1-(4-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (300 mg), 4-butoxyethoxyphenyl borate (368 mg) and potassium carbonate (534 mg), and the suspension was stirred under argon atmosphere for 30 minutes. Then, to the suspension was added tetrakistriphenylphosphinepalladium (63 mg), and the mixture was heated at 100° C. for 6 hours under argon atmosphere. After allowing to cool, water was added to the mixture, which was made acidic (pH=4) with 1N hydrochloric acid and extracted with ethyl acetate twice. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1) and the resulting solid was washed with hexane to give 7-(4-butoxyethoxyphenyl)-1-(4-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (149 mg) as yellow crystals.

reactant | 7-bromo-1-(4-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 300 mg | BrC=1C=CC2=C(C=C(CCN2CC2=CC=C(C=C2)OC)C(=O)O)C1 | C19H18BrNO3
reactant | 4-butoxyethoxyphenyl borate | 368 mg | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 534 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium | 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-(4-butoxyethoxyphenyl)-1-(4-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 149 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC2=CC=C(C=C2)OC)C(=O)O)C1 | C31H35NO5
